**********
* Library of National Semiconductor Corp. CURRENT-FEEDBACK  
* Macromodels.  Version 2.5
*
* This library of macromodels is being supplied to users as
* an aid to circuit designs.  While it reflects reasonably 
* close similarity to the actual device in terms of
* performance, it is not suggested as a replacement for
* breadboarding.  Simulation should be used as a supplement
* to traditional lab testing.
*
* Users should very carefully note the following factors
* regarding these models:
*
* -- Model performance in general will reflect typical
* baseline specs for a given device, and certain aspects of
* performance may not be modeled fully.
*
* -- While reasonable care has been taken in their
* preparation, we cannot be responsible for correct
* application on any and all computer systems.
*
* -- Model users are hereby notified that these models are
* supplied "as is", with no direct or implied responsibility
* on the part of National Semiconductor for their operation
* within a customer circuit or system.  Further, National
* Semiconductor reserves the right to change these models
* without prior notice.
*
* -- In all cases, the current data sheet information for a
* given real device is your final design guideline, and is
* the only actual performance guarantee.  For further
* technical information, refer to individual device data
* sheets.
*
*                  Modeled and tested                    *
* Supply voltage dependant input offset voltage (Vos). 
* Temperature dependant input offset voltage (TCVos). 
* Supply voltage dependant input bias current (Ib+ & Ib- PSR). 
* Temperature dependant input bias current (TCIb+ & TCIb-). 
* Input voltage dependant input bias current (Ib- CMRR). 
* Non-inverting input resistance.  
* Asymmetrical output swing. 
* Output short circuit current (Isc). 
* Supply voltage dependant supply current. 
* Quiescent and dynamic supply current. 
* Input voltage dependant input slew rate. 
* Input voltage dependant output slew rate. 
* Multiple poles and zeros in open-loop transimpedance (Zt). 
* Supply voltage dependant input buffer impedance. 
* Supply voltage dependant open-loop voltage gain (Avol). 
* Feedback resistance dependant bandwidth. 
* Accurate small-signal pulse response. 
* Large-signal pulse response. 
* DC and AC common mode rejection ratio (CMRR). 
* DC and AC power supply rejection ratio (PSRR). 
* White and 1/f voltage noise (en). 
* White and 1/f current noise (in). 
*                  Modeled but not tested               *
* Asymmetrical output slew rate. 
* Input common mode input range. 
* Supply voltage dependant input slew rate. 
*                         Not modeled                   *
* Third-order large signal effects.
* Self heating effects.
*
* Your feedback and suggestions on these (and future) models
* will be appreciated.
*
* Models developed by:
* David Hindi
* National Semiconductor       For information on the models, contact:
* 2900 Semiconductor Dr.       Linear Applications    
* Santa Clara, CA 95052        (408) 721-3877 
* M/S C2500                     
* FAX (408) 721-7321           For ordering information, contact:
*                              Customer Response Center
*                              (408) 721-4902
**********
*SRC=LM6181N;LM6181N;Opamps;NAT-"LMxxx";
*SYM=NATOPAMP
* LM6181 CURRENT FEEDBACK OP-AMP MACRO-MODEL
*
* connections:      non-inverting input
*                   |   inverting input
*                   |   |   positive power supply
*                   |   |   |   negative power supply
*                   |   |   |   |   output
*                   |   |   |   |   |
*                   |   |   |   |   |
.SUBCKT LM6181N     1   2  99  50  40
*
* Features:                          (TYP.)
*  High bandwidth =                   100MHz
*  High slew rate =                 2000V/uS
*  Current Feedback Topology
* NOTE:  Due to the addition of PSRR effects, model must be operated
*        with symetrical supply voltages.  To avoid this limitation 
*        and disable the PSRR effects, see EOS below.
*
GI1 99  5 POLY(1) 99 50 243.75U 2.708E-6
GI2  4 50 POLY(1) 99 50 243.75U 2.708E-6
FI1 99  5 VA3 100
FI2  4 50 VA4 100
Q1  50  3 5 QPN
Q2  99  3 4 QNN 
GR1  5  6 5 6 2.38E-4
*^4.2K noiseless resistor
C1   6 99 .468P
GR2  4  7 4 7 2.38E-4
*^4.2K noiseless resistor
C2   7 50 .468P
GR3 99  8 99 8 1.58E-3
*^633ohm noiseless resistor
V1  99 10 .3
RE1 10 30 130
D1  30  8 DX
GR4 50  9 50 9 1.58E-3
*^633ohm noiseless resistor
V2  11 50 .3
RE2 11 31 150
D2   9 31 DX
Q3   8  6 2 QNI
Q4   9  7 2 QPI
DS1  3 12 DY
VA3 12  5 0
DS2 13  3 DY
VA4  4 13 0
GR6  1 99 1 99 5E-8
*^20MEG noiseless resistor
GR7  1 50 1 50 5E-8
*^20MEG noiseless resistor
GB1  1 99 POLY(2) 99 50 56  0 -1.2E-6 4E-8 1E-3
FN1  1  0 V18 1
GB2 99  2 POLY(3) 99 50 1 49 55 0 18.5E-6 -1.5E-7 -1E-7 -1E-6
FN2  2  0 V17 1
EOS  3  1 POLY(5) 99 50 45  0 47 0 57 0 59 61 -2.8E-3 9.3E-5 1 1 1 1
*To run on asymetrical supplies, change to 0.................^.^
CIN1 1  0 2P
CIN2 2  0 3.75P
*
I3  99 50 4.47M
R8  99 49 7.19K
R9  49 50 7.19K
V3  99 16 1.7
D3  15 16 DX
D4  17 15 DX
V4  17 50 2.0
EH  99 98 99 49 1
G1  98 15 POLY(2) 99 8 50 9 0 1.58E-3 1.58E-3
*Fp1 = 27.96 KHz
R5  98 15 2.372MEG
C3  98 15 2.4P
*
*Fp=250MHz
G2  98 20 15 49 1E-3
R14 98 20 1K
C4  98 20 .692P
*
*Fp=250 MHz
G3  98 21 20 49 1E-3
R15 98 21 1K
C5  98 21 .692P
*
*Fp=275 MHz
G4  98 22 21 49 1E-3
R16 98 22 1K
C6  98 22 .5787P
*
*Fp=500 MHz
G5  98 23 22 49 1E-3
R17 98 23 1K
C7  98 23 .3183P
*
G10  0 45 99 0 1.413E-4
L3  44 45 26.53U
R25 44  0 10
G11  0 47 50 0 1.413E-4
L4  46 47 2.27364U
R26 46  0 10
*
I12  0 55 1
*SPICE 2 syntax
*R27  0 55 10  TC=3.453E-3 7.93E-5
*R28  0 56 1.5 TC=9.303E-4 8.075E-5
*R29  0 57 3.34 TC=3.111E-3
*IsSpice3 syntax
R27  0 55 10 RMOD1 
.MODEL RMOD1 R TC1=3.453E-3 TC2=7.93E-5
R28  0 56 1.5 RMOD2
.MODEL RMOD2 R TC1=9.303E-4 TC2=8.075E-5
R29  0 57 3.34 RMOD3
.MODEL RMOD3 R TC1=3.111E-3
I13  0 56 1E-3
I14  0 57 1E-3
*
V15 58  0 .1
D9  58 59 DN
R30 59  0 726.4
V16 60  0 .1
D10 60 61 DN
R31 61  0 726.4
V17 62  0 0
R32 62  0 73.6
V18 63  0 0
R33 63  0 1840
*
F6  99 50 VA7 1
F5  99 35 VA8 1
D7  36 35 DX
VA7 99 36 0
D8  35 99 DX
E1  99 37 99 23 1
VA8 37 38 0
R35 38 40 50
V5  33 40 5.3V
D5  23 33 DX
V6  40 34 5.3V
D6  34 23 DX
CF1 40  2 2.1P
*
.MODEL QNI NPN(IS=1E-14 BF=10E4 VAF=62.9 KF=6.7E-14)
.MODEL QPI PNP(IS=1E-14 BF=10E4 VAF=62.9 KF=6.7E-14)
.MODEL QNN NPN(IS=1E-14 BF=10E4 VAF=62.9 KF=4.13E-13)
.MODEL QPN PNP(IS=1E-14 BF=10E4 VAF=62.9 KF=4.13E-13)
.MODEL DX  D(IS=1E-15)
.MODEL DY  D(IS=1E-17)
.MODEL DN  D(KF=1.667E-9 AF=1 XTI=0 EG=.3)
.ENDS
**********
